* C:\GitHub\BLUE_backyard\major_projects\FOKA_SimpleDiodeDriver\Spice\Draft1.asc
M1 N006 N009 0 0 NMOS
M2 N007 N010 0 0 NMOS
R1 N009 N008 43
R2 N010 N008 43
XU1 N006 N004 N001 0 N005 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
C1 N006 0 1µ
Q1 N003 N005 N004 0 NPN
R3 N004 N008 5.6k
C2 N001 N003 100n
Q2 N003 N002 N001 0 PNP
R4 N001 N002 1k
R5 N002 N007 10k
I1 N001 N006 10m
V1 N001 0 15
V2 N008 0 PULSE(5 0 0.5m 1p 1p 1)
.model NPN NPN
.model PNP PNP
.lib C:\Users\pwmur\AppData\Local\LTspice\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\pwmur\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 2m startup
.lib UniversalOpAmp1.lib
.backanno
.end
